US20010014691A1
Methyl(1-methyl-3-(3-pyridyloxy)propyl)amine
Crude 3-bromo-1-(3-pyridyloxy)butane (2.00 g, 8.69 mmol) from the previous step was dissolved in methanol (10 mL) and added to a 40 wt % aqueous solution of methylamine (30 mL) in a heavy-walled glass pressure-tube apparatus. The mixture was stirred and heated at 100° C. (oil bath temperature) for 16 h. After cooling, the mixture was concentrated by rotary evaporation, and the product was extracted with chloroform (4×50 mL). The combined chloroform extracts were dried (Na2SO4), filtered and concentrated by rotary evaporation to give 1.25 g of a pale-yellow oil. Purification by vacuum distillation yielded 0.94 g (60.3%) of a colorless oil, bp 65-67° C. at 0.5 mm Hg.

reactant | 3-bromo-1-(3-pyridyloxy)butane | 8.69 mmol, 2.00 g | BrC(CCOC=1C=NC=CC1)C | C9H12BrNO
reactant | methylamine | 30 mL | CN | CH5N
solvent | methanol | 10 mL | CO | CH4O
product | Methyl(1-methyl-3-(3-pyridyloxy)propyl)amine | 1.25 g | CNC(CCOC=1C=NC=CC1)C | C10H16N2O
